US07317019B2
A solution of (2S, 3S)-(2-amino-3-hydroxy-hex-4-ynyl)-carbamic acid benzyl ester (225 mg, prepared as in WO PCT 0250019) in 3:1 CH2Cl2/DMF (12 mL) was charged successively with N,N-diisopropylethylamine (0.54 mL), 3-(3-(tert-butoxycarbonyl)amino-5-(trifluoromethyl)phenylamino)-3-oxopropanoic acid 235 mg), and HATU (283 mg). The reaction was stirred for 14 h at RT before being partitioned between EtOAc and water. The organic phase was washed with sat. NH4Cl, water, and brine before being dried (Na2SO4), filtered, and concentrated in vacuo. Flash chromatography provided benzyl (2S,3S)-2-(3-(3-(tert-butoxycarbonyl)amino-5-(trifluoromethyl)phenylamino)-3-oxopropanamido)-3-hydroxyhex-4-ynylcarbamate (92 mg). MS found: (M+Na)+=629.4.

reactant | (2S, 3S)-(2-amino-3-hydroxy-hex-4-ynyl)-carbamic acid benzyl ester | 225 mg | C(C1=CC=CC=C1)OC(NC[C@@H]([C@H](C#CC)O)N)=O | C14H18N2O3
reactant | N,N-diisopropylethylamine | 0.54 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3-(3-(tert-butoxycarbonyl)amino-5-(trifluoromethyl)phenylamino)-3-oxopropanoic acid | 235 mg | C(C)(C)(C)OC(=O)NC=1C=C(C=C(C1)C(F)(F)F)NC(CC(=O)O)=O | C15H17F3N2O5
reactant | HATU | 283 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | CH2Cl2 DMF | 12 mL | C(Cl)Cl.CN(C)C=O
product | benzyl (2S,3S)-2-(3-(3-(tert-butoxycarbonyl)amino-5-(trifluoromethyl)phenylamino)-3-oxopropanamido)-3-hydroxyhex-4-ynylcarbamate | 92 mg | C(C)(C)(C)OC(=O)NC=1C=C(C=C(C1)C(F)(F)F)NC(CC(=O)N[C@@H](CNC(OCC1=CC=CC=C1)=O)[C@H](C#CC)O)=O | C29H33F3N4O7
